US04935437
Sodium borohydride (20 mg) was added to a solution of 2-[3-(2-oxo-1,1-dimethylpropyl)-5-(1H-1,2,4-triazol-1-ylmethyl)phenyl]-2-methylpropiononitrile (prepared as described in Example 2--40 mg) in ethanol (2 ml) and the mixture was stirred at room temperature for 18 h. The mixture was diluted with water and extracted with ethyl acetate, and the extract was dried and evaporated to dryness under reduced pressure. The residue was purified by flash chromatography, using methanol (1% by volume) in ethyl acetate as eluant, to give 2-[3-(2-hydroxy-1,1-dimethylpropyl)-5-(1H-1,2,4-triazol-1-yl-methyl)phenyl]-2-methylpropiononitrile, mp 83°-84°.

reactant | Sodium borohydride | 20 mg | [BH4-].[Na+]
reactant | 2-[3-(2-oxo-1,1-dimethylpropyl)-5-(1H-1,2,4-triazol-1-ylmethyl)phenyl]-2-methylpropiononitrile | 2--40 mg | O=C(C(C)(C)C=1C=C(C=C(C1)CN1N=CN=C1)C(C#N)(C)C)C | C18H22N4O
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-[3-(2-hydroxy-1,1-dimethylpropyl)-5-(1H-1,2,4-triazol-1-yl-methyl)phenyl]-2-methylpropiononitrile | OC(C(C)(C)C=1C=C(C=C(C1)CN1N=CN=C1)C(C#N)(C)C)C | C18H24N4O
